US07977338B2
0.569 g of a suspension of crude [4-(3-nitro-pyridin-4-ylamino)-phenyl]acetic acid methyl ester and 0.140 g of Raney Ni in 15 ml of MeOH is stirred for 21 hours at rt under a hydrogen atmosphere. The mixture obtained is filtered through a pad of Celite and the filtrate obtained is concentrated. The concentration residue obtained is triturated in CH2Cl2. [4-(3-Amino-pyridin-4-ylamino)-phenyl]-acetic acid methyl ester is obtained in the form of a solid: ES-MS: 258.0 [M+H]+; single peak at tR=2.54 min (System 1).

reactant | [4-(3-nitro-pyridin-4-ylamino)-phenyl]acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=C(C=NC=C1)[N+](=O)[O-])=O | C14H13N3O4
solvent | MeOH | 15 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | [4-(3-Amino-pyridin-4-ylamino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=C(C=NC=C1)N)=O | C14H15N3O2
